US08633220B2
A solution of (trimethylsilyl)diazomethane (8.0 mL of a 2.0 M solution in hexanes, 16.0 mmol) was added slowly to a suspension of quinoline-8-carboxylic acid (2.0 g, 11.5 mmol) in toluene (80 mL) and MeOH (12 mL) at 0° C. After 30 min at 0° C., the reaction mixture was warmed to room temperature and stirred for 64 h. Aqueous acetic acid was added and then enough saturated aqueous Na2CO3 was added to bring the pH to 7.5. The layers were separated and the aqueous phase was extracted with EtOAc. The combined organic phase was dried (MgSO4SO4), filtered and concentrated in vacuo. The resulting brown oil was purified on 40 g silica gel (2:1 CH2Cl2/EtOAc) to afford 1.72 g (80%) of methyl quinoline-8-carboxylate.

reactant | (trimethylsilyl)diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | quinoline-8-carboxylic acid | 11.5 mmol, 2.0 g | N1=CC=CC2=CC=CC(=C12)C(=O)O | C10H7NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 12 mL | CO | CH4O
product | methyl quinoline-8-carboxylate | 1.72 g, 80% | N1=CC=CC2=CC=CC(=C12)C(=O)OC | C11H9NO2
